US04344954
2,3,5,6,7,8-Hexahydro-3-(5-methyl-2-thienyl)-2-phenylthiazolo[3,2-a][1,3]diazepin-3-ol
A mixture of 1.71 ml. of methanesulfonyl chloride in 40 ml. of toluene is added dropwise to a stirred slurry of 4.65 g. of 5-methyl-2-thienyl-α-hydroxybenzyl ketone and 5.6 ml. of triethylamine in 40 ml. of toluene. The mixture is stirred 20 hours, water is added and the organic layer is separated, washed with water and concentrated to dryness. A 20 ml. portion of ether is added to the residue giving a solid which is collected, washed with ether and dried, giving 4.8 g. of 5-methyl-2-thienyl-α-hydroxybenzyl ketone methanesulfonate ester. A mixture of 2.01 g. of this ester and 0.84 g. of hexahydro-2H-1,3-diazepine-2-thione in 40 ml. of acetone is allowed to stand 48 hours. The solvent is removed, 50 ml. of water and one ml. of concentrated ammonium hydroxide are added and the resulting solid is collected and washed with water. This solid is dissolved in 7 ml. of ethanol and then cooled. The resulting solid is collected, washed with ethanol, then ether and dried in vacuo, giving 1.2 g. of the desired product as a yellow solid, m.p. 70°-90° C.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-methyl-2-thienyl-α-hydroxybenzyl ketone | CC1=CC=C(S1)C(C1=CC=CC=C1)(O)C(=O)C(C1=CC=CC=C1)(C=1SC(=CC1)C)O | C25H22O3S2
reactant | hexahydro-2H-1,3-diazepine-2-thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,5,6,7,8-Hexahydro-3-(5-methyl-2-thienyl)-2-phenylthiazolo[3,2-a][1,3]diazepin-3-ol | CC1=CC=C(S1)C1(C(SC=2N1CCCCN2)C2=CC=CC=C2)O | C18H20N2OS2
